### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): the action of a bifunctor on homological complexes factors through homotopies

### PR DESCRIPTION
**Pull request by joelriou**
Given a `TotalComplexShape c₁ c₂ c`, a functor `F : C₁ ⥤ C₂ ⥤ D`, we study the behavior with respect to homotopies or the  functoriality of the action of `F` on homological complexes: if `f₁` and `f₁'` are homotopic maps, then the maps `mapBifunctorMap f₁ f₂ F c` and `mapBifunctorMap f₁' f₂ F c` are also homotopic.

---
- [x] depends on: #10711
- [x] depends on: #10764 

Hopefully, it might be possible to deduce the symmetric property for the second variable from this result on the first variable and a study of the flip of functors...

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/ComplexShapeSigns.lean [hunk 1]
```diff
@@ -78,13 +82,29 @@ lemma next_π₂ (i₁ : I₁) {i₂ i₂' : I₂} (h : c₂.Rel i₂ i₂') :
...
 
+lemma ε₁_ε₂ {i₁ i₁' : I₁} {i₂ i₂' : I₂} (h₁ : c₁.Rel i₁ i₁') (h₂ : c₂.Rel i₂ i₂') :
+    ε₁ c₁ c₂ c₁₂ ⟨i₁, i₂⟩ * ε₂ c₁ c₂ c₁₂ ⟨i₁, i₂⟩ =
+      - ε₂ c₁ c₂ c₁₂ ⟨i₁', i₂⟩ * ε₁ c₁ c₂ c₁₂ ⟨i₁, i₂'⟩ :=
+  Eq.trans (mul_one _).symm (by
+    rw [← Int.units_mul_self (ComplexShape.ε₁ c₁ c₂ c₁₂ (i₁, i₂')), mul_assoc]
+    conv_lhs =>
+      congr
+      · skip
+      · rw [← mul_assoc, ε₂_ε₁ c₁₂ h₁ h₂]
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/ComplexShapeSigns.lean:104]: If you like, you can optimize this to
```suggestion
      arg 2
      rw [← mul_assoc, ε₂_ε₁ c₁₂ h₁ h₂]
```

File: Mathlib/Algebra/Homology/BifunctorHomotopy.lean [hunk 2]
```diff
@@ -0,0 +1,162 @@
...
+        HomologicalComplex₂.d₁_eq_zero _ _ _ _ _ h₃, zero_comp]
+  · rw [ιMapBifunctor_hom₁_assoc _ _ _ _ _ _ _ _ _ _ rfl]
+    by_cases h₃ : c₁.Rel (c₁.prev i₁) i₁
+    · rw [ιMapBifunctorOrZero_eq _ _ _ _ _ _ _ (by rw [← ComplexShape.prev_π₁ c₂ c h₃, h]),
+        Linear.units_smul_comp, assoc, assoc, HomologicalComplex₂.ι_D₁,
+        HomologicalComplex₂.d₁_eq _ _ h₃ _ _ h, Linear.comp_units_smul,
+        Linear.comp_units_smul, smul_smul, Int.units_mul_self, one_smul]
+      dsimp
+      rw [NatTrans.naturality_assoc]
+      rfl
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/BifunctorHomotopy.lean:126]: Looks like there is some missing material on some subset of `HomologicalComplex₂.ιTotal`, `Functor.mapBifunctorHomologicalComplex`, `GradedObject.ιMapObj`, `GradedObject.mapBifunctor F I₁ I₂` and `ComplexShape.π` here that prevents `simp` from solving this. How hard do you think it would be here to provide a simp-normal form?

File: Mathlib/Algebra/Homology/BifunctorHomotopy.lean [hunk 3]
```diff
@@ -0,0 +1,162 @@
...
+    Preadditive.comp_add, HomologicalComplex₂.ι_D₁_assoc, GradedObject.mapBifunctor_obj_obj,
+    HomologicalComplex₂.ι_D₂_assoc, add_left_inj]
+  have : ∀ {X Y : D} (a b c d e f : X ⟶ Y), a = c → b = e → f = -d →
+      a + b = c + d + (e + f) := by rintro X Y a b _ d _ _ rfl rfl rfl; abel
+  apply this
+  · by_cases h₃ : c₁.Rel i₁ (c₁.next i₁)
+    · rw [HomologicalComplex₂.d₁_eq _ _ h₃ _ _ (by rw [← h, ComplexShape.next_π₁ c₂ c h₃])]
+      dsimp
+      rw [Linear.units_smul_comp, assoc]
+      erw [ιMapBifunctor_hom₁ _ _ _ _ i₁ _ _ _ _ _ (c₁.prev_eq' h₃)]
```
Comment (TwoFX) [inline Mathlib/Algebra/Homology/BifunctorHomotopy.lean:113]: Similar to the previous comment, how hard would it be to add the missing API so that it is not necessry to `erw` here?

File: Mathlib/Algebra/Homology/BifunctorHomotopy.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/BifunctorHomotopy.lean]: Thanks very much for this suggestion! It was not so easy to set up, but in the commit https://github.com/leanprover-community/mathlib4/pull/10800/commits/926b86f63c256c17e27a54946974dd17da3e876d I have put more isolation between the API of graded objects and that of the total complex. Now, the proofs in this file `BifunctorHomotopy` are just sequences of `rw`.

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
